US07351434B2
(4-methoxyphenyl)methanethiol is stirred in ethanol with sodium hydroxide to form sodium (4-methoxyphenyl)methanethiolate. An equivalent of 1-(chloromethyl)-4-methoxybenzene is added to the mixture, which is stirred overnight. The reaction mixture is then quenched by addition of dilute acid and the product bis(4-methoxybenzyl)sulfide. Subsequently, the bis(4-methoxybenzyl)sulfide is reacted with HBr in acetonitrile to cleave the methoxy protecting groups, followed by neutralization and purification of the bis(4-hydroxybenzyl)sulfide product.

reactant | (4-methoxyphenyl)methanethiol | COC1=CC=C(C=C1)CS | C8H10OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | sodium (4-methoxyphenyl)methanethiolate | COC1=CC=C(C=C1)C[S-].[Na+] | InChI=1S/C8H10OS.Na/c1-9-8-4-2-7(6-10)3-5-8;/h2-5,10H,6H2,1H3;/q;+1/p-1
